US07501414B2
N-(4-Bromo-2,6-dimethyl-phenyl)-2-cyclopentyl-acetamide
4-Bromo-2,6-dimethylaniline (5.92 g) and cyclopentylacetyl chloride (4.87 mL) were dissolved in acetonitrile (26 mL) and heated to 150° C. for 10 minutes in a sealed microwave process vial. The reaction was cooled to 0° C., the product filtered off and washed with cold acetonitrile (50 mL) affording 8.43 g (92% yield) of the title compound as a brown solid. The crude product was used without further purification. LC-MS (m/z) 312 (MH+); tR=3.10, (UV, ELSD) 89%, 99%. 1H NMR (500 MHz, CDCl3): 1.22 (m, 2H), 1.52 (m, 2H), 1.63 (m, 2H), 1.77 (m, 2H), 2.06 (s, 6H), 2.31 (m, 1H), 2.64 (d, 2H), 7.15 (s, 2H), 9.98 (b, 1H).

reactant | 4-Bromo-2,6-dimethylaniline | 5.92 g | BrC1=CC(=C(N)C(=C1)C)C | C8H10BrN
reactant | cyclopentylacetyl chloride | 4.87 mL | C1(CCCC1)CC(=O)Cl | C7H11ClO
solvent | acetonitrile | 26 mL | C(C)#N | C2H3N
product | N-(4-Bromo-2,6-dimethyl-phenyl)-2-cyclopentyl-acetamide | 8.43 g, 92% yield | BrC1=CC(=C(C(=C1)C)NC(CC1CCCC1)=O)C | C15H20BrNO
